US08440658B2
To a solution of (S)-methyl 2-aminopropanoate (30 g, 0.29 mol) and Et3N (88 g, 0.88 mol) in CH2Cl2 (300 mL) was added (Boc)2O (125 g, 0.58 mol) at 0° C. The formed mixture was stirred overnight. The mixture was filtered and the filtrate was washed with aqueous citric acid. The organic phase was concentrated to give (S)-methyl 2-(tert-butoxycarbonylamino)propanoate (58 g, 100%). 1H NMR (CDCl3): 1.27 (d, 3H), 1.39 (s, 9H), 2.83 (q, 1H), 3.71 (s, 3H), 4.28 (brs, 1H), 5.01 (brs, 1H).

reactant | (S)-methyl 2-aminopropanoate | 0.29 mol, 30 g | N[C@H](C(=O)OC)C | C4H9NO2
reactant | Et3N | 0.88 mol, 88 g | CCN(CC)CC | C6H15N
reactant | (Boc)2O | 0.58 mol, 125 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | (S)-methyl 2-(tert-butoxycarbonylamino)propanoate | 58 g, 100% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)C | C9H17NO4
